US07323604B2
(Z)-1-butylcyclohept-2-enol:
To a clear solution of 2-cyclohepten-1-one (5 g, 45.5 mmol) in ether (50 mL), cooled to 0° C., was added n-BuLi (2.0 M in hexanes, 25 mL, 50.0 mmol) dropwise to produce an opaque yellow solution. The reaction stirred for 2 h at 0° C. and then warmed to room temperature. After 1 h, the reaction was complete as determined by TLC, and quenched in 50 mL NH4Cl. The organic layer was separated and the aqueous layer was extracted with 50 mL of ether (3×). The combined organic layers were dried over Na2SO4, filtered and concentrated in vacuo. The resulting residue was purified by flash chromatography (10% Et2O/pentane) to afford the title compound as a light yellow oil (2 g, 26% yield). IR (film) 3377, 3015, 2930, 2860, 1456, 1378, 1335, 1223, 1121, 1103, 1043, 997 cm−1; 1H NMR (300 MHz, CDCl3) δ 5.69 (tt, 1H, J=5.6, 11.9 Hz, CCH═CH), 5.59 (d, 1H, J=11.9 Hz, CCH═CH), 2.17-2.09 (m, 2H), 1.84-1.45 (m, 9H), 1.38-1.27 (m, 4H), 0.93-0.88 (m, 3H); 13C NMR (75 MHz, CDCl3) δ 139.1, 130.0, 76.1, 41.1, 38.5, 27.6, 27.5, 25.6, 24.1, 23.2, 14.1; HRMS (EI+) exact mass calculated for [M]+ (C11H20O) requires m/z 168.1514, found m/z 168.1516.

reactant | 2-cyclohepten-1-one | 45.5 mmol, 5 g | C1(C=CCCCC1)=O | C7H10O
reactant | n-BuLi | 50.0 mmol, 2.0 M, 25 mL | [Li]CCCC
solvent | ether | 50 mL | CCOCC | C4H10O
product | (Z)-1-butylcyclohept-2-enol | 2 g, 26% yield | C(CCC)C1(\C=C/CCCC1)O | C11H20O
